US08729263B2
To a microwave vial was added 1-(4-bromo-3-methoxyphenyl)-1H-pyrazol-4-amine (250 mg, 0.93 mmol), bis(pinacolato)diboron (355 mg, 1.39 mmol), potassium acetate (543 mg, 5.59 mmol), PdCl2(dppf) (68.20 mg, 0.09 mmol), and dppf (51.70 mg, 0.09 mmol), followed by addition of 1,4-dioxane (2 mL). The reaction mixture was purged with N2 and stirred under N2 protection at 90° C. overnight. The reaction mixture was filtered through a disposable filter funnel, concentrated in vacuo, and purified by column chromotography (10% to 60% EtOAc in heptane) to afford 1-(3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrazol-4-amine (160 mg, MS: 316.2 [M+H+].).

reactant | 1-(4-bromo-3-methoxyphenyl)-1H-pyrazol-4-amine | 0.93 mmol, 250 mg | BrC1=C(C=C(C=C1)N1N=CC(=C1)N)OC | C10H10BrN3O
reactant | bis(pinacolato)diboron | 1.39 mmol, 355 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 5.59 mmol, 543 mg | C(C)(=O)[O-].[K+]
catalyst | PdCl2(dppf) | 0.09 mmol, 68.20 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dppf | 0.09 mmol, 51.70 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 1-(3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrazol-4-amine | 160 mg | COC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)N1N=CC(=C1)N | C16H22BN3O3
